US07417060B2
To a solution of tert-butyl [2-(4-bromophenyl)ethyl]-[(2R)-2-hydroxy-2-phenylethyl]carbamate (3.20 g) in dichloromethane (40 ml) were added 3,4-dihydro-2H-pyran (1.28 g) and pyridinium p-toluenesulfonate (191 mg) at room temperature and the mixture was stirred at the same temperature for 5 hours under nitrogen. The mixture was diluted with ethyl acetate and water. The organic layer was separated, washed with brine, dried over sodium sulfate and evaporated under reduced pressure to give tert-butyl [2-(4-bromophenyl)ethyl][(2R)-2-phenyl-2-(tetrahydro-2H-pyran-2-yloxy)ethyl]carbamate (4.11 g).

reactant | tert-butyl [2-(4-bromophenyl)ethyl]-[(2R)-2-hydroxy-2-phenylethyl]carbamate | 3.20 g | BrC1=CC=C(C=C1)CCN(C(OC(C)(C)C)=O)C[C@@H](C1=CC=CC=C1)O | C21H26BrNO3
reactant | 3,4-dihydro-2H-pyran | 1.28 g | O1CCCC=C1 | C5H8O
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
catalyst | pyridinium p-toluenesulfonate | 191 mg | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
product | tert-butyl [2-(4-bromophenyl)ethyl][(2R)-2-phenyl-2-(tetrahydro-2H-pyran-2-yloxy)ethyl]carbamate | 4.11 g | BrC1=CC=C(C=C1)CCN(C(OC(C)(C)C)=O)C[C@H](OC1OCCCC1)C1=CC=CC=C1 | C26H34BrNO4
